US04775223
40 ml of thionyl chloride was added to 5.0 g of 4-octyloxybiphenylcarboxylic acid and the mixture was refluxed under heat for 3 hours. Excess of thionyl chloride was distilled off to obtain 4-octyloxybiphenylcarboxylic acid chloride, which was then added to a solution of 5.0 g of hydroquinone in 50 ml of pyridine. After 2 hours of reaction, the mixture was refluxed under heat for 10 hours, charged into ice water, and extracted with benzene. The extract was purified with a silica gel column chromatography to obtain 4-hydroxyphenyl estcr of 4-octyloxybiphenylcarboxylic acid.

reactant | 4-octyloxybiphenylcarboxylic acid | 5.0 g | C(CCCCCCC)OC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C21H26O3
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-octyloxybiphenylcarboxylic acid chloride | C(CCCCCCC)OC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)Cl | C21H25ClO2
